US07855194B2
2-Chloro-5,6,7-trimethoxy-4-phenyl-quinazoline
A solution of 5,6,7-trimethoxy-4-phenyl-quinazolin-2-ol (0.21 g, 0.67 mmol, 1.0 equiv) in phosphorus oxychloride (25.0 mL, 41.9 g, 273.1 mmol, 407.6 equiv) was heated to 110° C. for 1.5 h. The reaction mixture was poured on ice, the pH adjusted to 9 by addition of a 1 M solution of NaOH and the solution extracted with ethyl acetate (3×10 mL). The organic phase was dried over Na2SO4 and concentrated by evaporation under reduced pressure yielding 25.0 mg (11%) of the title compound which was used in the consecutive step without further purification. MS (ISP): 331.3 [M+H]+.

reactant | 5,6,7-trimethoxy-4-phenyl-quinazolin-2-ol | 0.67 mmol, 0.21 g, 1.0 equiv | COC1=C2C(=NC(=NC2=CC(=C1OC)OC)O)C1=CC=CC=C1 | C17H16N2O4
reactant | phosphorus oxychloride | 273.1 mmol, 25.0 mL, 41.9 g, 407.6 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
product | 2-Chloro-5,6,7-trimethoxy-4-phenyl-quinazoline | 25.0 mg, 11% | ClC1=NC2=CC(=C(C(=C2C(=N1)C1=CC=CC=C1)OC)OC)OC | C17H15ClN2O3
